US05254555
Trans-6-Cyano-4-[(6-chloropyrimidin-4-yl)amino]-3,4-dihydro-2,2-dimethyl-2H-1 -benzopyran-3-ol (E1)
A solution of trans-6-cyano-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (prepared as described in U.S. Pat. No. 4,446,113) (2.0 g) and 4,6-dichloropyrimidine (1.5 g) in ethanol (25 mL) and triethylamine (1.3 mL) was heated under reflux for 72 h. The solution was allowed to cool and the precipitate filtered off, and dissolved in ethyl acetate. The ethyl acetate solution was washed with water, 0.5N hydrochloric acid, sodium bicarbonate solution, brine, and then dried (Na2SO4). Removal of drying agent and solvent gave the title compound as a solid (1.08 g). A sample recrystallised from acetonitrile had m.pt. 204°-8° C.

reactant | trans-6-cyano-4-amino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N)C1 | C12H14N2O2
reactant | 4,6-dichloropyrimidine | 1.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | Trans-6-Cyano-4-[(6-chloropyrimidin-4-yl)amino]-3,4-dihydro-2,2-dimethyl-2H-1 -benzopyran-3-ol | 1.08 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC2=NC=NC(=C2)Cl)C1 | C16H15ClN4O2
